US09169259B2
A mixture of methyl 3-(8-(6-(4,4-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (200 mg, 0.44 mmol) and NaOH (200 mg, 5 mmol) in 1,4-dioxane (5 mL) and water (5 mL) was stirred for 2 h at 40° C. Then the mixture was concentrated to 5 mL and adjusted to pH=2 with 2M HCl. The precipitate was filtered and purified by prep-HPLC to give 3-(8-(6-(4,4-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (18 mg, 9%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.53 (s, 1H), 8.94 (s, 1H), 8.52 (s, 2H), 8.18-8.12 (m, 3H), 7.72 (t, 1H, J=7.8 Hz), 7.57 (t, 1H, J=7.8 Hz), 6.76 (d, 1H, J=7.8 Hz), 6.54 (d, 1H, J=8.1 Hz), 3.59-3.57 (m, 4 h), 1.38-1.36 (m, 4 h), 0.98 (s, 6H). LC-MS: [M+H]+, 443, tR=1.788 min, HPLC: 100% at 214 nm, 100% at 254 nm, tR=6.762 min.

reactant | methyl 3-(8-(6-(4,4-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.44 mmol, 200 mg | CC1(CCN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2)C | C26H28N6O2
reactant | NaOH | 5 mmol, 200 mg | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 3-(8-(6-(4,4-dimethylpiperidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 18 mg, 9% | CC1(CCN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2)C | C25H26N6O2
